US07838498B2
Preparation of 1-(allyloxymethyl)-2-bromo-5-chloro-4-(4-ethylbenzyl)benzene (Intermediate G)
To a solution of (2-bromo-5-chloro-4-(4-ethylbenzyl)phenyl)methanol (3.4 g, 10 mmol) in DMF (50 mL) was added NaH (0.8 g, 20 mmol, 60% in miner oil) in portions at −5° C. After being stirred for 1 h at the same temperature, the reaction mixture was cooled to −10° C., TBAI (0.37 g, 1 mmol) and a solution of allyl bromide (1.45 g, 12 mmol) in DMF (10 mL) was added. The reaction mixture was stirred for another 1 h prior to quenching by ice water and extracted 3× with EtOAc. The combined organic layers were washed with brine and then dried over Na2SO4. Concentration gave the crude product, which was purified by silica column chromatography (elution with PE:EtOAc=10:1) to afford the title compound (3.22 g, yield 84.8%).

reactant | (2-bromo-5-chloro-4-(4-ethylbenzyl)phenyl)methanol | 10 mmol, 3.4 g | BrC1=C(C=C(C(=C1)CC1=CC=C(C=C1)CC)Cl)CO | C16H16BrClO
reactant | NaH | 20 mmol, 0.8 g | [H-].[Na+]
reactant | allyl bromide | 12 mmol, 1.45 g | C(C=C)Br | C3H5Br
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
catalyst | TBAI | 1 mmol, 0.37 g | CCCC[N+](CCCC)(CCCC)CCCC.[I-]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 1-(allyloxymethyl)-2-bromo-5-chloro-4-(4-ethylbenzyl)benzene | 3.22 g, yield 84.8% | C(C=C)OCC1=C(C=C(C(=C1)Cl)CC1=CC=C(C=C1)CC)Br | C19H20BrClO
